US08809581B2
5 g (44.2 mmole) of ε-caprolactam was dissolved in 19.48 g of 20 wt % NaOH and heated to reflux for 3-5 hours. After ε-caprolactam was hydrolyzed completely, the mixture was cooled down to 5˜10° C. and then 25 g of water and 10 g of 4-nitrobenzyl chloroformate were added. The mixture was stirred 1 hour at 5-10° C. and then washed with 25 g of ethyl acetate twice. The pH of the aqueous layer was adjusted to 1-2 by adding 16% HCl and extracted with ethyl acetate twice. Combined ethyl acetate layer was washed with water. The organic layer was dried by sodium sulfate and concentrated to obtain 6-(4-nitro-benzyloxycarbonylamino)-hexanoic acid. Purity was 93.9%.

reactant | ε-caprolactam | 44.2 mmole, 5 g | C1(CCCCCN1)=O | C6H11NO
reactant | water | 25 g | O | H2O
reactant | 4-nitrobenzyl chloroformate | 10 g | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
solvent | NaOH | [OH-].[Na+]
product | 6-(4-nitro-benzyloxycarbonylamino)-hexanoic acid | [N+](=O)([O-])C1=CC=C(COC(=O)NCCCCCC(=O)O)C=C1 | C14H18N2O6
